US08685969B2
3. Ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate
To a homogeneous solution of benzyl 3-(2-amino-1-(6-morpholino-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate (1.4934 g, 3.08 mmol) in dioxane (154 ml) were added 50% ethyl 2-oxoacetate/toluene (1.222 ml, 6.16 mmol) and 4N HCl/dioxane (1.541 ml, 6.16 mmol) under nitrogen. The reaction was stirred overnight. More 50% ethyl 2-oxoacetate/toluene (1.222 ml, 6.16 mmol) was added, and the reaction was stirred overnight. The reaction was concentrated in vacuo, dissolved in EtOAc (100 mL) and washed with water (25 mL) and brine (25 mL) successively, dried over MgSO4, and concentrated in vacuo to give a crude product, which was used in the subsequent step. To this crude were added 10% Pd/C (0.819 g, 0.770 mmol) and toluene (77 ml), and the mixture was refluxed overnight. The reaction was cooled to room temperature, diluted with EtOAc (200 mL), and filtered through a pad of CELITE®. The filtrate was washed with water (75 mL) and brine (75 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography using an ISCO 120 g column eluting with 15-70% EtOAc/CH2Cl2 to give the desired product (0.354 g, 0.627 mmol, 20.4% yield) as a tan solid.

reactant | benzyl 3-(2-amino-1-(6-morpholino-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 3.08 mmol, 1.4934 g | NCC(C1=CNC2=CC(=CC=C12)N1CCOCC1)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C29H32N4O3
reactant | ethyl 2-oxoacetate toluene | 6.16 mmol, 1.222 ml | O=CC(=O)OCC.C1(=CC=CC=C1)C
reactant | HCl dioxane | 6.16 mmol, 4N, 1.541 ml | Cl.O1CCOCC1
reactant | ethyl 2-oxoacetate toluene | 6.16 mmol, 1.222 ml | O=CC(=O)OCC.C1(=CC=CC=C1)C
reactant | toluene | 77 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 154 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.770 mmol, 0.819 g | [Pd] | Pd
product | Ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate | 0.627 mmol, 0.354 g, 20.4% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)N2CCOCC2)C(=O)OCC)C | C33H32N4O5
